US04352818
5 g (23.5 mmol) of 4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one in 30 ml of dimethylformamide are treated with 3.20 g (23.5 mmol) of N-chlorosuccinimide and stirred at room temperature for 1.5 hours and at 60° for 10 minutes. The clear brown solution is poured into about 200 ml of water and extracted three times with chloroform. The combined chloroform extracts are washed with water, dried over magnesium sulphate and evaporated. By chromatography of the residue on a silica gel column and subsequent recrystallization from ethyl acetate there is obtained 3-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 193°-194°.

reactant | 4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 23.5 mmol, 5 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2 | C12H11N3O
reactant | N-chlorosuccinimide | 23.5 mmol, 3.20 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | about 200 ml | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-chloro-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C12H10ClN3O
